US06747053B2
To a flask under nitrogen was added 576 mg (2.63 mM) of 6-Methoxy-1-methyl-1H-indole-2-carboxylic acid methyl ester and 30 ml dichloromethane. The mixture was cooled to −60° C. in dry ice acetone bath and 16 ml 1M boron tribromide in dichloromethane (16 mM) was added. After stirring 45 minutes at −60° C. the mixture was allowed to warm to room temperature and stirred for 5 hours. The mixture was poured into 200 ml saturated sodium bicarbonate solution and stirred for 30 minutes. Hydrochloric acid was added till acidic, ethyl acetate was added and the mixture filtered through a celite plug to remove insoluble solids. The ethyl acetate layer was separated and the aqueous was extracted two more time with ethyl acetate. The combined ethyl acetate layers were dried over magnesium sulfate, filtered and stripped to give 6-Hydroxy-1-methyl-1H-indole-2-carboxylic acid (M/S, ES-, 190.2 M-H)

reactant | 6-Methoxy-1-methyl-1H-indole-2-carboxylic acid methyl ester | 2.63 mM, 576 mg | COC(=O)C=1N(C2=CC(=CC=C2C1)OC)C | C12H13NO3
reactant | boron tribromide | 1M, 16 ml | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | dichloromethane | 16 mM | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Hydroxy-1-methyl-1H-indole-2-carboxylic acid | 190.2 M | OC1=CC=C2C=C(N(C2=C1)C)C(=O)O | C10H9NO3
